US04673746
The Friedel-Crafts procedure of Example 24a is repeated with 48.13 g of o-chlorobenzoyl chloride being combined with 36.7 g AlCl3 and 44.26 g of 2,3-dichloroanisole to yield a white crystalline product of 2,3-dichloro-4-methoxy-2'-chlorobenzophenone, mp 117°-120° C.

reactant | o-chlorobenzoyl chloride | 48.13 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | AlCl3 | 36.7 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2,3-dichloroanisole | 44.26 g | ClC1=C(C=CC=C1Cl)OC | C7H6Cl2O
product | 2,3-dichloro-4-methoxy-2'-chlorobenzophenone | ClC1=C(C(=O)C2=C(C=CC=C2)Cl)C=CC(=C1Cl)OC | C14H9Cl3O2
